US07091199B1
Preparation of (2-bromo-ethyl)-(3-fluoro-benzyl)-amine (Scheme I(a), Compound 9)
Combine 3-fluorobenzylamine (5.0 g, 0.0400 mol), fused sodium acetate (3.28 g, 0.0400 mol) and 1,2-dibromoethane (7.51 g, 0.0400 mol) and reflux for several hours. Pour the mixture into water and add sodium carbonate to create a basic pH. Remove the unreacted 1,2-dibromoethane by distillation. Extract the left-over residue with ether and evaporate to obtain the final, desired compound. The compound can form the hydrochloride salt.

reactant | 3-fluorobenzylamine | 0.0400 mol, 5.0 g | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | 1,2-dibromoethane | 0.0400 mol, 7.51 g | BrCCBr | C2H4Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | (2-bromo-ethyl)-(3-fluoro-benzyl)-amine | BrCCNCC1=CC(=CC=C1)F | C9H11BrFN
